US07776888B2
0.7 g (2.7 mmol) of 2,3,4,4-tetrachloro-bicyclo[3.2.2]nona-2,6-diene (known from U.S. Pat. No. 3,538,117) is heated in a mixture of 1 ml of trifluoroacetic acid, 4 ml of acetic acid and 1 ml of water for 18 hours at a temperature of 70° C. The cooled reaction solution is then taken up in diethyl ether and extracted first with water and then with saturated sodium chloride solution. After chromatographic purification (ethyl acetate/hexane 1:4), 0.33 g of 3-chloro-bicyclo-[3.2.2]non-6-ene-2,4-dione is obtained as a tautomeric mixture of the forms Da and Db.

reactant | 2,3,4,4-tetrachloro-bicyclo[3.2.2]nona-2,6-diene | 2.7 mmol, 0.7 g | ClC=1C2C=CC(C(C1Cl)(Cl)Cl)CC2 | C9H8Cl4
reactant | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
reactant | water | 1 ml | O | H2O
solvent | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-chloro-bicyclo-[3.2.2]non-6-ene-2,4-dione | 0.33 g | ClC1C(C2C=CC(C1=O)CC2)=O | C9H9ClO2
